US04556665
Combine methyl 4-fluorobenzoate (1.52 g, 10 mmol), 1H-imidazole (0.82 g, 12 mmol) and potassium carbonate (1.40 g, 10 mmol) in dimethylsulfoxide (7 mL) and heat the mixture with stirring at 120°-130° C. for 5 hours, cool, add water and acid, extract with ether. Adjust the pH of the aqueous layer to 8 with sodium carbonate, extract with ether, dry the extract with sodium sulfate and evaporate. 4-(1H-Imidazol-1-yl)benzoic acid is prepared by refluxing this methyl ester (0.61 g, 3 mmol) in 5 mL of 10% aqueous sodium hydroxide for five minutes; cool, neutralize to pH 6-7 with hydrochloric acid, filter and dry the precipitated acid.

reactant | methyl 4-fluorobenzoate | 10 mmol, 1.52 g | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | 1H-imidazole | 12 mmol, 0.82 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 10 mmol, 1.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(1H-Imidazol-1-yl)benzoic acid | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
